Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo G2P0 @ 33+6 p/w HA over the last 4 days. Pt reports 
diffuse intermittent HA, up to "9 out of 10" in intensity over 
the last days, minimal response to tylenol at home. Also has 
photophobia and spots in vision (large white spots, last 
occurred this AM). Upon presentation to triage HA 7 out of 10, 
now 5 out
of ___ s/p tylenol. No CP, RUQ/epigastric pain, inc ___ edema. Has 
had mild SOB throughout this preg. No ctx, VB, LOF. +FM.
 
Past Medical History:
PNC: 
-___ ___ by LMP
-Labs O-/Abs-/HIV-/HBsAg-/RI/RPRNR/GBS unk
-s/p Rhogam ___
-ERA low risk
-FFS wnl
-GLT nl
-Issues:
*) depression/anxiety, followed by social work

OBHx:
- G1 complete AB at ___ wks
- G2 current 

GynHx:
- denies STIs, gyn surgeries, fibroids

PMH: 
- heart murmur, sciatica, anxiety
- denies asthma, HTN

PSH: 
- none
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
___ 23:24BP: 136/88 (97)
___ 23:30Temp.: 98.4°F
___ 23:30Resp.: 18 / min
___ 00:05BP: 119/81 (89)
___ 00:59BP: 113/61 (71)
Gen NAD
Neuro CN II-XII intact, strength grossly intact in upper/lower 
extrem
CV RRR
Pulm CTAB, no crackles
Abd soft, NT/ND, no RUQ/epigastric TTP
Ext no calf tenderness/edema
TAUS cephalic, MVP 4.5

FHT 130/mod var/+accels/-decels
Toco irritable

On discharge:
Gen: well appearing, NAD
VS: 99.1 106 / 66 ( 106-131/67-85) 69 20 98 RA 
Lungs: no evidence of resp distress
Abd: soft, gravid, NT
Ext: no calf tenderness

NST/TOCO: 
Date ___ Time 1020
130/mod var/+acc/-decels
Toco flat
 
Pertinent Results:
___ WBC-14.8 RBC-3.81 Hgb-11.7 Hct-35.3 MCV-93 Plt-259
___ Creat-0.6 ALT-16 AST-24 UricAcd-3.5

___ URINE Blood-NEG Nitrite-NEG Protein-TR Glucose-NEG 
Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ URINE RBC-2 WBC-6 Bacteri-FEW Yeast-NONE Epi-9
___ URINE Hours-RANDOM Creat-111 TotProt-35 Pr/Cr-0.3
___ URINE pH-6 Hours-24 Volume-2200 Creat-60 TotProt-12 
Prot/Cr-0.2
___ URINE 24Creat-1320 24Prot-___ yo G2P0 admitted at 33w5d with a headache. Although she had 
normal range blood pressures (130s/80s) and normal preeclampsia 
labs, she had an abnormal urine  p/c (0.3). She was admitted for 
observation and a 24 hour urine collection. She had an 
ultrasound in the CMFM on ___ which was reassuring with 
appropriate growth. Her headache resolved with Tylenol and 
Fioricet. She remained normotensive and her 24 hour urine was 
negative (264mg). She was discharged home in stable condition 
and will have close outpatient follow up.
 
Medications on Admission:
PNV, sertraline
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every eight (8) hours Disp #*20 Tablet 
Refills:*0 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 34w0d
headache
 
Discharge Condition:
stable
 
Discharge Instructions:
You were admitted to the antepartum service for observation due 
to mildly elevated blood pressures and a headache. Your headache 
resolved and your blood pressures remained in the normal range. 
You had no evidence of preeclampsia. Fetal testing was 
reassuring while you were here. It was felt it was safe for you 
to be discharged home. You were given a prescription for 
Fioricet to take as needed for headache. Please take Fioricet 
only on occasion as it can cause rebound headaches if taken too 
often. Also, do not take within 4 hours of taking Tylenol.
 
Followup Instructions:
___